US08044068B2
To a solution of 6-bromomethyl-2-chloro-4-methylquinoline (0.40 g) in methanol (8 mL) was added 1 M aqueous sodium hydroxide (4 mL) at room temperature, and the mixture was stirred at 70° C. for 30 min. After cooled to room temperature, the reaction solution was diluted with ethyl acetate. The organic layer was washed with saturated brine, the organic layer was dried with anhydrous magnesium sulfate, the desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=1:4) to obtain 2-chloro-6-methoxymethyl-4-methylquinoline (0.31 g).

reactant | 6-bromomethyl-2-chloro-4-methylquinoline | 0.40 g | BrCC=1C=C2C(=CC(=NC2=CC1)Cl)C | C11H9BrClN
reactant | sodium hydroxide | 1 M, 4 mL | [OH-].[Na+]
reactant | methanol | 8 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-6-methoxymethyl-4-methylquinoline | 0.31 g | ClC1=NC2=CC=C(C=C2C(=C1)C)COC | C12H12ClNO
